US04603135
Ethylene bromohydrin (0.37 ml) was added dropwise with stirring to a mixture of 4-diphenylmethylpiperidine (1 g), potassium carbonate powder (1.1 g) and N,N-dimethylformamide (10 ml), and the mixture was stirred at room temperature for 4 hours. The precipitate was filtered off and the filtrate was concentrated under reduced pressure, followed by addition of water and extraction with dichloromethane. The dichloromethane layer was washed with water and dried (MgSO4) and the solvent was distilled off. The residue was purified by silica gel chromatography [eluent: CH2Cl2 --MeOH (25:1, v/v)] to give 4-diphenylmethyl-1-piperidineethanol as an oil. Yield 1.08 g (91.9%).

reactant | Ethylene bromohydrin | 0.37 ml | C(CO)Br | C2H5BrO
reactant | 4-diphenylmethylpiperidine | 1 g | C1(=CC=CC=C1)C(C1CCNCC1)C1=CC=CC=C1 | C18H21N
reactant | potassium carbonate | 1.1 g | C([O-])([O-])=O.[K+].[K+]
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | 4-diphenylmethyl-1-piperidineethanol | C1(=CC=CC=C1)C(C1CCN(CC1)CCO)C1=CC=CC=C1 | C20H25NO
